US04258176
1-n-Hexyl-10,10-dimethyl-1,11-diaminoundecane
Reaction of 3,3-dimethyl-12-n-hexyl-1-aza-1,5,9-cyclododecatriene with hydroxylamine sulfate, in the presence of hydrochloric acid and water, to 2,2-dimethyl-11-n-hexyl-11-amino-undeca-4,8-dienal-oxime, and hydrogenation of this to given 1-n-hexyl-10,10-dimethyl-1,10-diaminoundecane; b.p. 135° C./4 Pa; nD20 =1.4624.

reactant | 3,3-dimethyl-12-n-hexyl-1-aza-1,5,9-cyclododecatriene | CC1(C=NC(CC=CCCC=CC1)CCCCCC)C | C19H33N
reactant | hydroxylamine sulfate | S(=O)(=O)(O)O.NO
reactant | hydrochloric acid | Cl | ClH
reactant | 2,2-dimethyl-11-n-hexyl-11-amino-undeca-4,8-dienal-oxime | CC(C=NO)(CC=CCCC=CCC(N)CCCCCC)C | C19H36N2O
reactant | 4 Pa | C=CCCC(=O)O | C5H8O2
solvent | water | O | H2O
product | 1-n-Hexyl-10,10-dimethyl-1,11-diaminoundecane | C(CCCCC)C(CCCCCCCCC(CN)(C)C)N | C19H42N2
